US06608052B2
To a mixture of 5-bromo-2-furaldehyde (1.76 g) and morpholine (1.00 ml) in 40 mL anhydrous THF at room temperature was added acetic acid (0.60 mL) followed by sodium triacetoxyborohydride (3.28 g). The mixture was stirred at room temperature for 3 h and then poured into a saturated solution of sodium bicarbonate (100 mL). After stirring vigorously for 5 min the layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4), filtered and evaporated to dryness. Purification of the residue by flash chromatography afforded 2.09 g (8.49 mmol, 84% yield) of 4-(5-bromo-2-furylmethyl)morpholine.

reactant | 5-bromo-2-furaldehyde | 1.76 g | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | morpholine | 1.00 ml | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 3.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 0.60 mL | C(C)(=O)O | C2H4O2
product | 4-(5-bromo-2-furylmethyl)morpholine | 8.49 mmol, 2.09 g, 84% yield | BrC1=CC=C(O1)CN1CCOCC1 | C9H12BrNO2
